US07943609B2
4-[(11S)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenol (2.62 g, 7.91 mmol) was suspended in 50 mL of dry CH2Cl2 and stirred under N2. The solution was treated with triethylamine (2.2 mL, 15.8 mmol) and acetic anhydride (0.89 mL, 9.45 mmol). After 18 hours, the reaction mixture was treated with 50 mL of H2O. The layers were separated, and the organic portion was washed with H2O and brine. The organic layer was then dried over Na2SO4, filtered, and concentrated under reduced pressure to give 4-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenyl acetate (2.95 g) as a white solid.

reactant | 4-[(11S)-10,11-Dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenol | 7.91 mmol, 2.62 g | C1=C2C3=C(C=NC2=CC=C1)N=C1N3[C@H](COC1)CC1=CC=C(C=C1)O | C20H17N3O2
reactant | triethylamine | 15.8 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 9.45 mmol, 0.89 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | H2O | 50 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-[(11S)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-11-ylmethyl]phenyl acetate | 2.95 g | C(C)(=O)OC1=CC=C(C=C1)C[C@H]1COCC=2N1C1=C(C=NC3=CC=CC=C13)N2 | C22H19N3O3
